US07419984B2
6-(5-Bromo-2-methyl-phenyl)-N*4*-(4-nitro-phenyl)-pyrimidine-2,4-diamine
Following the method described in Example 26, 4-(5-bromo-2-methyl-phenyl)-6-chloro-pyrimidin-2-ylamine and 4-nitro-phenylamine provided the title compound (74% yield). 1H NMR (CD3OD) δ 2.41 (s, 3H, CH3), 6.42 (s, 1H, Ar), 7.39 (d, 1H, J=8.0 Hz, Ar), 7.67-7.70 (m, 2H, Ar), 8.14 (d, 2H, J=9.0 Hz, Ar), 8.31-8.34 (m, 2H, Ar).

reactant | 4-(5-bromo-2-methyl-phenyl)-6-chloro-pyrimidin-2-ylamine | BrC=1C=CC(=C(C1)C1=NC(=NC(=C1)Cl)N)C | C11H9BrClN3
reactant | 4-nitro-phenylamine | [N+](=O)([O-])C1=CC=C(C=C1)N | C6H6N2O2
product | 6-(5-Bromo-2-methyl-phenyl)-N*4*-(4-nitro-phenyl)-pyrimidine-2,4-diamine | 74% yield | BrC=1C=CC(=C(C1)C1=CC(=NC(=N1)N)NC1=CC=C(C=C1)[N+](=O)[O-])C | C17H14BrN5O2
